Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Dyspnea 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo F with past medical history significant for HIV, heroin 
abuse, tobacco abuse, presents to the ED with dyspnea two hours 
after leaving AMA from ___. Was picked up by 
son, who brought her to ___ emergency room. Patient originally 
presented to ___ after 2 months of loss of 
appetite and a 20 weight loss. In the last month she had a 
progressive dyspnea which worsened to the point that she was 
admitted to ___ 4 days prior to presentation 
here. The patient reports that she left ___ AMA 
because she was unsatisfied with her work-up there. When asked 
what her expectations were for her visit, she stated, "Help me!" 
 
.  
In the ED, initial VS were: T 99.2, HR 140, BP 162/115, RR 32, 
O2Sat 99% on NRB. CXR showed white-out of left chest. Thoracic 
surgery was called for consultation. Bedside thoracentesis by IP 
was productive of 400 mL of serous fluid. Was ordered for a CT 
chest, though refused to travel to scanner. Labs returned with 
WBC count of 14.7 with 80% neutrophils and 6% bands. Was ordered 
for Vancomycin and Cefepime due to concern for HCAP. UA was 
performed and was negative for evidence of infection. Concerning 
tachycardia, EKG showed sinus tach. Vitals signs prior to 
transfer to the ICU were: T 98.6, HR 110, BP 122/80, RR 16, 
O2Sat 100% on NRB.  

 
Past Medical History:
1) Lung mass (identified at recent admission to ___ 
___)  
2) HIV (patient does not report, though son notes treatment on 
and off for ___ years. Unknown recent viral load.)  
3) Heroin abuse (patient reports last use ___ months ago, on 
methadone maintenance)  

 
Social History:
___
Family History:
Father - ___ 
 
Physical ___:
VS: T 97.8, HR 109, BP 117/78, RR 19, O2Sat 100% NRB  
GEN: Appears emaciated  
HEENT: Bitemporal wasting, sclera anicteric, oral mucosa dry, no 
evidence of thrush  
NECK: Supple, thin, no cervical or supraclavicular ___  
PULM: right posterior lung field with basilar crackles, left 
posterior lung field with scant breath sounds, entire left 
posterior lung field dull to percussion  
CARD: Tachycardic, nl S1, nl S2, no M/R/G  
GI: BS+, protuberant out of proportion to body habitus  
EXT: Digital clubbing present, bilateral ___ with 1+ pitting 
edema to level of knees, DP and ___ pulses 2+ bilaterally  
NEURO: Oriented x 3, difficulty hearing  
PSYCH: Patient uninterested in examination and exhibits 
frustration toward examiner  

 
Pertinent Results:
___ 03:22PM    WBC-14.7*  LYMPH-7* ABS LYMPH-1029 CD3-38 
ABS CD3-396* CD4-1 ABS CD4-7* CD8-38 ABS CD8-388 CD4/CD8-0.0*
___ 03:22PM   ___ PTT-24.7 ___
___ 03:22PM   PLT SMR-NORMAL PLT COUNT-190
___ 03:22PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-1+ 
POLYCHROM-OCCASIONAL OVALOCYT-1+ TEARDROP-OCCASIONAL
___ 03:22PM   NEUTS-80* BANDS-6* LYMPHS-7* MONOS-6 EOS-0 
BASOS-0 ATYPS-1* ___ MYELOS-0 NUC RBCS-1*
___ 03:22PM   WBC-14.7* RBC-4.15* HGB-11.7* HCT-35.0* 
MCV-84 MCH-28.2 MCHC-33.4 RDW-17.3*
___ 03:22PM   ALBUMIN-4.2
___ 03:22PM   ALT(SGPT)-26 AST(SGOT)-61* LD(LDH)-704* ALK 
PHOS-64 TOT BILI-0.3
___ 03:22PM   GLUCOSE-113* UREA N-11 CREAT-0.5 SODIUM-129* 
POTASSIUM-4.3 CHLORIDE-83* TOTAL CO2-30 ANION GAP-20
___ 04:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 08:50PM PLEURAL  WBC-50* RBC-1655* POLYS-40* LYMPHS-30* 
MONOS-10* MACROPHAG-20*
 
Brief Hospital Course:
ICU COURSE

1) Dyspnea:  
Patient presented to ED with limited medical history and report 
of a new diagnosis of a lung mass prior to leaving AMA from St. 
___ hosptial. Was noted to have a complete opacification of 
left lung field on CXR with minimal lung markings. CT scan was 
suggested, though patient refused. Root cause of patient's more 
acute dyspnea is the pleural effusion. Patient's dyspnea 
improved greatly following removal of 400 mL fluid during 
thoracentesis. A broad differential was entertained given ___ 
year history of HIV and smoking history: left side lung mass and 
associated malignant pleural effusion, lymphoma, 
post-obstructive pneumonia and resulting parapneumonic effusion. 
This was supported somewhat by leukocytosis and bandemia of 6%. 
Empiric therapy with vancomycin and cefepime was started.  
Sputum cultures were procured, as well as fluid cell counts, 
chemistries, cytology, gram stain, and culture.  The analysis of 
the effusion was abnormal, but nondiagnostic.  Chest CT on ___ 
showed mass (BAC) that was "head-sized", invading the left 
hilus, mediastinum, bronchus and PA. Many spinal mets were 
noted.  Given the picture of Stage IV Ca, discussion with family 
and patient resulted in change to comfort measures only.  
Patient was maintained on nasal cannula and later non-rebreather 
to support oxygenation.  Sedation also helped with tachypnea, 
that seemed to worsen when patient was more alert.
.
2.)  Hyponatremia:  
Patient had Na of 129 upon admission.  Was thought to be likely 
a hypovolemic hyponatremia given patient's hypovolemia, though 
other processes could not be exluded until the patient was 
euvolemic.  The patient was treated empiraclly with volume 
replacement with subsequent checks in sodium and urine 
lytes/osms.  Resolved with volume replacement.
.
3.)  HIV:  
Patient and son reported that she has been on and off therapy 
for years, though they did not know her current disease state 
upon admission.  HIV antibodies and viral load were taken to 
assess disease state.  CD4 count of 7, not enough blood for 
viral load.  Patient was started on azithro for MAC ppx and 
bactrim for PCP ___.  These were stopped as patient transitioned 
to CMO.
.
4.)  Heroin abuse:  
Patient noted last use ___ months prior to admission.  Patient 
reported her methadone maintenance dose to be 90 mg daily. 
Attempts were made to contact ___ clinic in 
___ to confirm the dose.  Methadone was administered 
at the confirmed dose.  These were held intermittently when the 
patient seemed overly sedated.

.
Medicine Floor Course:
Patient was transferred to the floor on ___.  Upon arrival, 
she was sedated, had a respiratory rate of 44 and coarse breath 
sounds.  Given patient's CMO status, she was continued on 5L O2 
by NC, morphine drip, ativan, and scopolamine and hyoscyamine 
for oral secretions.  At 05:10 the next morning ___, house 
officer was informed of patient's death.  Exam revealed 
nonreactive pupils, no respirations or heart sounds, no 
Babinski, and no response to pain.  Family was notified.     

 
Medications on Admission:
Methadone 93 mg daily (Confirmed with Seven Hills clinic 
___ 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Stage IV Lung CA
 
Discharge Condition:
Expired
 
Discharge Instructions:
Expired
 
Followup Instructions:
___